US07485634B2
Preparation of (3,4-Difluorophenyl)-(1-methyl-1-phenyl-1,3,4,9-tetrahydrobeta-carbolin-2-yl)-methanone
The title compound was prepared by the addition of 1-methyl-1-phenyl-1,3,4,9-tetrahydrobeta-carboline (105 mg, 400 μmol), CHCl3 (9 mL), 3,4-difluorobenzoyl chloride (85 mg, 480 μmol), and DIEA (140 μL, 800 μmol) to a 25 mL flask. The solution was allowed to stir at 60° C. under N2 for 17 hours. The reaction solution was concentrated, and the crude sample was chromatographed (SiO2, 100% hexane to 20% EtOAc) to yield 35 mg of title compound; 1H NMR (CDCl3) δ 7.54 (1H, d), 7.48 (2H, d), 7.12-7.32 (9H, m), 4.05 (1H, m), 3.64-3.70 (1H, m), 3.19 (1H, m), 2.96 (1H, m), 2.29 (3H, s); MS (ESI): 403 (MH+).

reactant | 1-methyl-1-phenyl-1,3,4,9-tetrahydrobeta-carboline | 400 μmol, 105 mg | CC1(NCCC=2C3=CC=CC=C3NC12)C1=CC=CC=C1 | C18H18N2
reactant | 3,4-difluorobenzoyl chloride | 480 μmol, 85 mg | FC=1C=C(C(=O)Cl)C=CC1F | C7H3ClF2O
reactant | DIEA | 800 μmol, 140 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CHCl3 | 9 mL | C(Cl)(Cl)Cl | CHCl3
product | (3,4-Difluorophenyl)-(1-methyl-1-phenyl-1,3,4,9-tetrahydrobeta-carbolin-2-yl)-methanone | 35 mg | FC=1C=C(C=CC1F)C(=O)N1C(C=2NC3=CC=CC=C3C2CC1)(C1=CC=CC=C1)C | C25H20F2N2O
